US05665271
Preparation of trans-4-(4-(trans-4-(4-cyanophenyl)cyclohexyl)butyl)-1-(4-pentenyl)-1-silacyclohexane
130 ml (0.13 mols) of a THF solution of 1M of 4-pentenylmagnesium bromide was dropped in a solution of 200 ml of THF and 14.0 g of zinc chloride to obtain an organozinc reagent. The resultant mixture was added to a solution of 41.0 g (0.1 mol) of 1-chloro-4-(4-(trans-4-(4-cyanophenyl)cyclohexyl)butyl)-1-silacyclohexane in 300 ml of THF. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments, followed by isolation through chromatography to obtain 40.8 g (yield: 95%) of the intended trans isomer product.

reactant | 1-chloro-4-(4-(trans-4-(4-cyanophenyl)cyclohexyl)butyl)-1-silacyclohexane | 0.1 mol, 41.0 g | Cl[SiH]1CCC(CC1)CCCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#N | C22H32ClNSi
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | trans-4-(4-(trans-4-(4-cyanophenyl)cyclohexyl)butyl)-1-(4-pentenyl)-1-silacyclohexane | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCC[C@@H]1CC[Si@H](CC1)CCCC=C | C27H41NSi
